US05067967
A. Preparation of 1-amino-4-acetylamino-3-fluorobenzene
198 g (1 mol) of 1-acetylamino-2-fluoro-4-nitrobenzene are transferred into a stainless steel autoclave together with 510 ml of methanol, about 3 g of palladium-on-charcoal (5%) are added and catalytic reduction is carried out in the course of 4 hours at 50° C. under a hydrogen pressure of 15 bar. After the catalyst has been removed, 450 ml of methanol are distilled off from the reaction solution in vacuo, the product which has precipitated is filtered off with suction and the residue is washed with a little methanol and dried at 50°-60° C. in a vacuum cabinet.

reactant | 1-acetylamino-2-fluoro-4-nitrobenzene | 1 mol, 198 g | C(C)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C8H7FN2O3
catalyst | palladium-on-charcoal | about 3 g | [Pd] | Pd
solvent | methanol | 510 ml | CO | CH4O
product | 1-amino-4-acetylamino-3-fluorobenzene | NC1=CC(=C(C=C1)NC(C)=O)F | C8H9FN2O
